Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ male w/ history of polysubstance
abuse, asthma presenting with 2 episodes of intermittent loss of
consciousness and possible syncope. Patient had presented to
___ Detox on ___ for detox. Noted by nursing
staff to have AMS and episode of syncope vs. intermittent
consciousness during 7AM to 3PM shift, cleared by medical team.
The night of ___, the patient was tachycardic, pale, with AMS,
began vomiting, shaking, and going in and out of consciousness.
Also endorsed weakness. Was having intermittent apneic episodes.
Patient was confused and slipping in and out of consciousness. 

Patient reports he has had intermittent periods of palpitations
that occur randomly. He has never seen a doctor for these
episodes. He has no history of sudden cardiac death in his
family. Patient endorses use of IV heroin and IV 
methamphetamines
as well as alcohol abuse. Has also used cocaine and crack in 
past
as well. 

At the ___ facility his EKG was notable for possible delta
waves on his EKG with concern for WPW. He also received a
non-contrast head CT that was negative. Last used alcohol and
drugs 3 days ago, in rehab x 2 days. Was receiving phenobarb and
subutex tapers. 

 
Past Medical History:
Asthma
Polysubstance Abuse
Anxiety
Depression
ADHD
 
Social History:
___
Family History:
 No history of sudden cardiac death
 
Physical Exam:
ADMISSION EXAM:
 Vitals:  ___ 1522 Temp: 98.5 PO BP: 128/80 L Lying HR: 72
RR: 16 O2 sat: 98% O2 delivery: RA 
 General: AOx3, agitated, nondiaphoretic
 ___: Sclerae anicteric, MMM, oropharynx clear, PERRLA, EOMI  
 Neck: supple, JVP not elevated, no LAD  
 Lungs: diffuse expiratory wheezes, otherwise CTAB 
 CV: RRR, nl S1/S2, no m/r/g  
 GI: soft, NT/ND, BS+, no rebound tenderness or guarding, no
organomegaly  
 MSK: warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema, no tremor  
 Neuro: CN2-12 intact, ___ strength in all extremities, SLTI 
 Skin: No rash or lesion

DISCHARGE EXAM:
97.9 PO 135 / 83 81 18 98 RA 
 General: AOx3, agitated, anxious, sister at bedside
 ___: Sclerae anicteric  
 Neck: supple, JVP not elevated  
 Lungs: diffuse expiratory wheezes, otherwise CTAB 
 CV: RRR, nl S1/S2, no m/r/g  
 GI: soft, NT/ND, BS+, no rebound tenderness or guarding, no
organomegaly  
 MSK: warm, well perfused
 Neuro: CN2-12 intact, ___ strength in all extremities, SLTI 
 Skin: No rash or lesion
 
Pertinent Results:
ADMISSION LABS:
___ 03:30AM BLOOD WBC-6.3 RBC-4.36* Hgb-13.0* Hct-38.6* 
MCV-89 MCH-29.8 MCHC-33.7 RDW-14.0 RDWSD-45.4 Plt ___
___ 03:30AM BLOOD Glucose-82 UreaN-20 Creat-1.0 Na-140 
K-5.5* Cl-102 HCO3-26 AnGap-12
___ 03:30AM BLOOD Calcium-8.9 Phos-4.8* Mg-1.9

DISCHARGE LABS
___ 11:10AM BLOOD Ethanol-NEG Barbitr-NEG
___ 06:40AM BLOOD WBC-4.6 RBC-4.28* Hgb-13.0* Hct-38.5* 
MCV-90 MCH-30.4 MCHC-33.8 RDW-14.0 RDWSD-45.4 Plt ___
___ 06:40AM BLOOD Glucose-103* UreaN-19 Creat-1.1 Na-141 
K-4.2 Cl-104 HCO3-28 AnGap-9*
___ 06:40AM BLOOD Albumin-3.4* Calcium-9.3 Phos-3.7 Mg-2.1

URINE TOX
___ 08:58AM URINE bnzodzp-NEG barbitr-POS* opiates-NEG 
cocaine-POS* amphetm-NEG oxycodn-NEG mthdone-NEG

 
Brief Hospital Course:
Patient is a ___ male w/ history of polysubstance abuse, 
asthma presenting with 2 episodes of intermittent loss of 
consciousness and possible syncope with EKG findings c/f 
pre-excitation syndrome who left AMA prior to conclusion of work 
up.

#EtOH withdrawal
#Polysubstance Abuse
History of polysubstance abuse, positive Utox on admission for 
barbiturates (likely from phenobarb at rehab), cocaine. Last 
drink and heroin use per patient was ___. History of EtOH 
withdrawal prior, no known associated seizures or 
hallucinations. He was treated here with benzodiazapines for 
CIWA and received one dose of Buprenorphine-Naloxone (2mg-0.5mg) 
for heroin withdrawal. Psychiatry saw him and offered to work 
with him on addiction and rehab placement but he declined 
preferring to seek treatment closer to home. He was deemed to 
have capacity to leave AMA by psychiatry. He was prescribed 
narcan, thiamine, folate and a multivitamin and advised to seek 
addiction treatment ASAP.

#Pre-Excitation Syndrome
EP saw Mr. ___ and reviewed his EKGs and telemetry they 
felt it does appear consistent with a WPW pattern with a bypass 
tract likely right paraseptal region. They recommend Stress test 
which could not be obtained safely with recent cocaine use, a 
loop recorder would be an acceptable alternative but we were 
unable to arrange this prior to his AMA discharge. 

#Asthma
-albuterol inhaler prn

TRANSITIONAL ISSUES:
#COMMUNICATION: Sister ___ ___
# Should receive treatment for drug and alcohol addiction as 
soon as possible, narcan prescribed as harm reduction measure
# Patient should be seen by EP/Cardiology and receive ETT vs 
Loop recorder and consideration of intervention of probably ___ 

>30 minutes spent on patient care and coordination on day of 
discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing or SOB 

 
Discharge Medications:
1.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth dailu Disp #*30 Tablet 
Refills:*0 
2.  Multivitamins 1 TAB PO DAILY 
RX *multivitamin  1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
3.  Narcan (naloxone) 4 mg/actuation nasal once 
RX *naloxone [Narcan] 4 mg/actuation 1 spary IN PRN ONCE Disp 
#*2 Spray Refills:*0 
4.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*0 
5.  Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing or SOB  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
___
Syncope

Secondary:
opioid use disorder
alcohol use disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,
You were admitted to ___ from rehab for concern for a heart 
condition called ___ syndrome which could have 
contributed to your fainting at rehab. When you got here you 
still had cocaine in your system so we were unable to safely to 
the cardiac stress test that we wanted to. We recommended that 
you stay for that to happen or to receive a recording monitor of 
your heart but you declined knowing the risk that you may have 
an undiagnosed and dangerous heart condition. We treated you for 
alcohol and heroin withdrawal while you were here and you were 
seen by psychiatry who offered to continue to work with you on 
drug and alcohol cessation but you declined saying you felt too 
far from home. Please return to the hospital should you change 
your mind about receiving diagnostic testing and treatment for 
your heart condition or addiction.

Sincerely,
Your ___ Care Team 
 
Followup Instructions:
___